US04963564
2-[2-[(6-Bromohexyl)oxy]ethyl]quinoline
A mixture of 2-quinolineethanol (1.00 g), 1,6-dibromohexane (4 ml), TAB (100 mg), 50% aqueous sodium hydroxide (4 ml) and dichloromethane (3 ml) was stirred at room temperature for 40 h, then diluted with water (40 ml) and ether (25 ml). The organic phase was washed with water (20 ml), dried and evaporated in vacuo. The residual oil was purified by FCC eluting with hexane followed by hexane-ether (9:1) and ether, to give the title compound (1.18 g) as a pale yellow oil, t.l.c. (diethyl ether) Rf 0.44.

reactant | 2-quinolineethanol | 1.00 g | N1=C(C=CC2=CC=CC=C12)CCO | C11H11NO
reactant | 1,6-dibromohexane | 4 ml | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 4 ml | [OH-].[Na+]
reactant | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | water | 40 ml | O | H2O
solvent | ether | 25 ml | CCOCC | C4H10O
product | 2-[2-[(6-Bromohexyl)oxy]ethyl]quinoline | 1.18 g | BrCCCCCCOCCC1=NC2=CC=CC=C2C=C1 | C17H22BrNO
